US07572809B2
d) Preparation of 6-Fluoro-5-methoxy-indan-1,2-dione 2-oxime
To a solution of 6-Fluoro-5-methoxy-indan-1-one (4.8 g) in 65 ml of MeOH was added 2.7 ml of concentrated HCl, then a solution of n-butylnitrite (3.47 ml) at room temperature. The resulting mixture was stirred for 2 hrs, the precipitate was collected and dried to yield the product as a white solid (3.9 g, 70% yield). LC-MS: m/e 210 (MH+)

reactant | 6-Fluoro-5-methoxy-indan-1-one | 4.8 g | FC1=C(C=C2CCC(C2=C1)=O)OC | C10H9FO2
reactant | HCl | 2.7 ml | Cl | ClH
reactant | n-butylnitrite | 3.47 ml | C(CCC)ON=O | C4H9NO2
solvent | MeOH | 65 ml | CO | CH4O
product | 6-Fluoro-5-methoxy-indan-1,2-dione 2-oxime | 3.9 g, 70% yield | FC1=C(C=C2CC(C(C2=C1)=O)=NO)OC | C10H8FNO3
